US09382238B2
A solution of 2-methyl-2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)propanal (100 mg, 0.381 mmol) and Raney nickel (22.39 mg, 0.381 mmol) in MeOH (30 mL) was stirred at 25° C. under H2 overnight. After TLC analysis (PE/EA=5/1) showed the starting material was consumed, the mixture was filtered. The filtrate was concentrated to give 2-(5-amino-3-(trifluoro methyl)pyridin-2-yl)-2-methylpropan-1-ol (60 mg, 0.256 mmol, 67% yield): 1H NMR (400 MHz, CD3OD) δ 8.08 (br. s., 1H), 7.36 (d, J=2.8 Hz, 1H), 1.31 (s, 6H); ES-LCMS m/z: 235.1 (M+H).

reactant | 2-methyl-2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)propanal | 0.381 mmol, 100 mg | CC(C=O)(C)C1=NC=C(C=C1C(F)(F)F)[N+](=O)[O-] | C10H9F3N2O3
reactant | EA | CC(OCC)=O | C4H8O2
catalyst | Raney nickel | 0.381 mmol, 22.39 mg | [Ni] | Ni
solvent | MeOH | 30 mL | CO | CH4O
product | 2-(5-amino-3-(trifluoro methyl)pyridin-2-yl)-2-methylpropan-1-ol | 0.256 mmol, 60 mg, 67% yield | NC=1C=C(C(=NC1)C(CO)(C)C)C(F)(F)F | C10H13F3N2O
